US07238722B2
22.6 g (0.138 mol) of 1,5-dimethyl-3-trifluoromethyl-1H-pyrazole are added dropwise at 0° C. to a solution of 156 ml (1.65 mol) of acetic anhydride and 0.5 ml of conc. H2SO4. The reaction mixture is stirred under reflux for approx. 8 days. After each 24 h of reaction time, 0.5 ml of H2SO4 each time is added to the reaction mixture. On completion of the reaction, excess acetic anhydride is distilled off under reduced pressure, the residue is taken up in 500 ml of CH2Cl2 and the organic phase is washed 3 times with 300 ml of water each time. The organic phase is dried over MgSO4 and concentrated by rotary evaporation. Distillation of the oily residue results in 6.20 g (0.030 mol; 21.8%) of 4-acetyl-1,5-dimethyl-3-trifluoromethyl-1H-pyrazole (b.p.: 142° C./0.4 mbar).

reactant | 1,5-dimethyl-3-trifluoromethyl-1H-pyrazole | 0.138 mol, 22.6 g | CN1N=C(C=C1C)C(F)(F)F | C6H7F3N2
reactant | acetic anhydride | 1.65 mol, 156 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | H2SO4 | 0.5 ml | OS(=O)(=O)O | H2O4S
reactant | H2SO4 | 0.5 ml | OS(=O)(=O)O | H2O4S
product | 4-acetyl-1,5-dimethyl-3-trifluoromethyl-1H-pyrazole | 0.030 mol, 6.20 g, 21.8% | C(C)(=O)C=1C(=NN(C1C)C)C(F)(F)F | C8H9F3N2O
